US09278910B2
Prepared using General Procedure 12: To a stirring solution of 4-formylphenyl 4-(heptyloxy)benzoate INT-12 (6.0 g, 17.6 mmol) in THF (30 mL) was added tert-butyl 2-aminoacetate hydrochloride (3.3 g, 19.7 mmol). After stirring for 2 h, sodium triacetoxyborohydride (7.5 g, 32.3 mmol) was added. After stirring for 12 h, the reaction mixture was diluted with NaHCO3 and the organic layer was separated. The remaining aqueous layer was extracted with DCM. The organic layers were combined, dried over Na2SO4, concentrated and purified by chromatography (EA/hexanes) to afford 155 mg (19%) of 4-(((2-(tert-butoxy)-2-oxoethyl)amino)methyl)phenyl 4-(heptyloxy)benzoate INT-13. LCMS-ESI (m/z) calculated for C27H37NO5: 455; found 456 [M+H]+, tR=3.27 min (Method 1). 1H NMR (400 MHz, CDCl3) δ 8.18-8.09 (m, 2H), 7.41 (d, J=8.5 Hz, 2H), 7.18-7.08 (m, 2H), 7.01-6.88 (m, 2H), 4.08-3.98 (m, 2H), 3.78 (s, 2H), 3.23 (s, 2H), 1.89-1.75 (m, 2H), 1.55-1.41 (s, 9H), 1.45-1.21 (m, 6H), 1.15-1.06 (m, 2H), 0.88 (dd, J=8.5, 5.0 Hz, 3H).

reactant | 4-formylphenyl 4-(heptyloxy)benzoate | C(CCCCCC)OC1=CC=C(C(=O)OC2=CC=C(C=C2)C=O)C=C1 | C21H24O4
reactant | tert-butyl 2-aminoacetate hydrochloride | 19.7 mmol, 3.3 g | Cl.NCC(=O)OC(C)(C)C
reactant | sodium triacetoxyborohydride | 32.3 mmol, 7.5 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 4-(((2-(tert-butoxy)-2-oxoethyl)amino)methyl)phenyl 4-(heptyloxy)benzoate | 155 mg, 19% | C(CCCCCC)OC1=CC=C(C(=O)OC2=CC=C(C=C2)CNCC(=O)OC(C)(C)C)C=C1 | C27H37NO5
